US08859773B2
To a yellow orange solution of (E)-ethyl 2-(2-tert-butylhydrazono)propanoate (22.9 g, 123 mmol) in toluene (300 mL) was added (chloromethylene)dimethylammonium chloride (Vilsmeier salt, 34.0 g, 252 mmol) in a single portion. The suspension was stirred 3 hours at room temperature, slowly becoming a biphasic mixture of toluene over a thick orange oil. The reaction mixture was cooled to 0° C. and slowly neutralized with saturated aqueous sodium bicarbonate. The layers were separated and the aqueous layer extracted with additional ethyl acetate (2×200 mL). The organic layers were combined, washed with 200 mL brine, dried over sodium sulfate, filtered and concentrated to yield ethyl 1-tert-butyl-4-formyl-1H-pyrazole-3-carboxylate (18.6 g) as a tan-orange oil which solidified on standing. +APCI (M+H) 225.1; 1H NMR (400 MHz, CDCl3, δ): 10.37 (s, 1H), 8.14 (s, 1H), 4.48 (q, J=7.0 Hz, 2H), 1.65 (s, 9H), 1.44 (t, 3H).

reactant | (E)-ethyl 2-(2-tert-butylhydrazono)propanoate | 123 mmol, 22.9 g | C(C)(C)(C)N\N=C(\C(=O)OCC)/C | C9H18N2O2
reactant | (chloromethylene)dimethylammonium chloride | 252 mmol, 34.0 g | [Cl-].ClC=[N+](C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-tert-butyl-4-formyl-1H-pyrazole-3-carboxylate | 18.6 g | C(C)(C)(C)N1N=C(C(=C1)C=O)C(=O)OCC | C11H16N2O3
